US03965015
Preparation of 1-ethyl-3-(aminododecyl) thiourea
22 grams (.110 mole) of 1,12-diaminododecane in 300 cc ether was reacted via dropwise addition with 5 grams (0.058 mole) ethyl isothiocyanate. The precipitate was filtered, washed with ether and recrystallized from alcohol yielding 6 grams of the thiourea derivative.

reactant | 1,12-diaminododecane | .110 mole, 22 grams | NCCCCCCCCCCCCN | C12H28N2
reactant | ethyl isothiocyanate | 0.058 mole, 5 grams | C(C)N=C=S | C3H5NS
solvent | ether | 300 cc | CCOCC | C4H10O
product | 1-ethyl-3-(aminododecyl) thiourea | C(C)NC(=S)NCCCCCCCCCCCCN | C15H33N3S
